US03971819
A. n-Hexyl-3-n-hexylamino-4-phenoxy-5-sulphamyl-benzoate
A mixture of 3-amino-4-phenoxy-5-sulphamyl-benzoic acid (4.62 g), 1-bromo-n-hexane (5 g), methanesulphonic acid (0.05 ml), and n-hexanol (40 ml) was refluxed for 60 hours. After cooling, the precipitated n-hexyl-3-n-hexylamino-4-phenoxy-5-sulphamyl-benzoate was collected and recrystallized from hexanol. The melting point was 137°-138°C.

reactant | 3-amino-4-phenoxy-5-sulphamyl-benzoic acid | 4.62 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
reactant | 1-bromo-n-hexane | 5 g | BrCCCCCC | C6H13Br
reactant | methanesulphonic acid | 0.05 ml | CS(=O)(=O)O | CH4O3S
solvent | n-hexanol | 40 ml | C(CCCCC)O | C6H14O
product | n-Hexyl-3-n-hexylamino-4-phenoxy-5-sulphamyl-benzoate | C(CCCCC)OC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=CC=C1)NCCCCCC)=O | C25H36N2O5S
